US08623889B2
(1S,2S)-2-fluoro-N-(7-(4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide
A mixture of 7-(4-methylpyridin-3-yl)-isoquinolin-3-amine (350 mg, 1.5 mmol), (1S,2S)-2-fluorocyclopropanecarboxylic acid (232 mg, 2.2 mmol), HATU (1.13 g, 3.0 mmol), and N,N-diisopropylethylamine (0.52 mL, 3.0 mmol) in N,N-dimethylformamide (3 mL) was heated at 70° C. for 3 hours. The cooled reaction mixture was diluted with ethyl acetate (100 mL) and washed with water (50 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by reverse phase HPLC (5-85% acetonitrile in water with 0.1% formic acid over 14 min) to afford the title compound as an off-white solid (15 mg, 23%). 1H NMR (400 MHz, DMSO) δ 10.97 (s, 1H), 9.20 (s, 1H), 8.53 (s, 1H), 8.50 (s, 1H), 8.49 (d, J=5.0 Hz, 1H), 8.09 (s, 1H), 7.98 (d, J=8.6 Hz, 1H), 7.76 (dd, J=8.5, 1.4 Hz, 1H), 7.40 (d, J=5.0 Hz, 1H), 4.95 (m, 1H), 2.33 (s, 3H), 2.28 (m, 1H), 1.70 (dtd, J=23.2, 6.8, 3.8 Hz, 1H), 1.25-1.14 (m, 1H). LCMS (Method E): RT=3.063 min, M+H+=322.1.

reactant | 7-(4-methylpyridin-3-yl)-isoquinolin-3-amine | 1.5 mmol, 350 mg | CC1=C(C=NC=C1)C1=CC=C2C=C(N=CC2=C1)N | C15H13N3
reactant | (1S,2S)-2-fluorocyclopropanecarboxylic acid | 2.2 mmol, 232 mg | F[C@@H]1[C@@H](C1)C(=O)O | C4H5FO2
reactant | HATU | 3.0 mmol, 1.13 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 3.0 mmol, 0.52 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (1S,2S)-2-fluoro-N-(7-(4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 15 mg, 23% | F[C@@H]1[C@@H](C1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C=NC=CC1C | C19H16FN3O
